US04073770
Following the procedure given in E above, 75 grams of 2-methyl-2,4-diethyl decahydroquinoline were reacted with ethylene oxide in the presence of 50 milliliters of ethylene glycol at 200° C. for 10 hours to yield 1-(2'-hydroxyethyl)-2-methyl-2,4-diethyl decahydroquinoline, which had a boiling point of 140° C. at 0.8 mm Hg. The NMR and infrared spectra were consistent with the desired product. For formula of C16H31NO, the calculated carbon, hydrogen, nitrogen contents are 75.83% carbon, 12.33% hydrogen, and 5.53% nitrogen and the analyzed contents were 74.69% carbon, 12.24% hydrogen, and 5.14% nitrogen.

reactant | 2-methyl-2,4-diethyl decahydroquinoline | 75 grams | CC1(NC2CCCCC2C(C1)CC)CC | C14H27N
reactant | ethylene oxide | C1CO1 | C2H4O
solvent | ethylene glycol | 50 milliliters | C(CO)O | C2H6O2
product | 1-(2'-hydroxyethyl)-2-methyl-2,4-diethyl decahydroquinoline | OCCN1C(CC(C2CCCCC12)CC)(CC)C | C16H31NO
